data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cc(Cl)cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "Cc1cc(Cl)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "Cc1cc(Cl)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)cc(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)cc(Cl)c1", "products": "Cc1cc(Cl)cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(C)C(Cl)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C)C(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C)C(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C)C2(Cl)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C)C2(Cl)O3)cc1", "products": "CC1OC2OC1(Cl)C1C(=O)C21"}, {"reactants": "CC1OC2OC1(Cl)C1C(=O)C21.[O-]C", "products": "COC1([O-])C2C3OC(C)C(Cl)(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(C)C(Cl)(O3)C21.CO", "products": "COC(=O)C1CC2(Cl)OC1OC2C"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(F)c(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "COc1cc(F)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "COc1cc(F)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "COc1cc(F)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc(F)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc(F)c2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccc(F)c(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(F)ccc2F)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(F)ccc2F)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)ccc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)ccc1F", "products": "O=C1CCN2C[C@H](OCc3cc(F)ccc3F)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(Cl)c(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "Cc1ccc(Cl)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "Cc1ccc(Cl)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1ccc(Cl)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "Cc1ccc(Cl)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1ccc(Cl)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "Cc1ccc(Cl)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "CC1=C(c2cc(C)ccc2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)ccc2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(C)ccc2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)ccc2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(Cl)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "Cc1ccc(Cl)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "Cc1ccc(Cl)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "Cc1ccc(Cl)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "Cc1ccc(Cl)c(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CC(C)C)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC(C)C)c([Si](C)(C)C)cc1=C", "products": "CC(C)C[Si](C)(C)c1cc2c(cc1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC1OC2OC1(OC)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1(OC)O2"}, {"reactants": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1(OC)O2.[O-]C", "products": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1(OC)O2"}, {"reactants": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1(OC)O2", "products": "COC1OC2OC1(OC)C1C(=O)C21"}, {"reactants": "COC1OC2OC1(OC)C1C(=O)C21.[O-]C", "products": "COC1OC2OC1(OC)C1C2C1([O-])OC"}, {"reactants": "COC1OC2OC1(OC)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(OC)OC1OC2OC"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CC(C)c1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "CC(C)c1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "CC(C)c1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C(C)C)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C(C)C)c1", "products": "CC(C)c1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
